US05231113
Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate
tert-Butyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate-Using tert-butyl 4-hydroxybenzoate, the title compound was synthesized as a white solid. PMR (CDCl3): δ 1.33 (6H, s), 1.35 (6H, s), 1.62 (9H, s), 1.73 (4H, s), 7.25 (2H, d, J~8.7 Hz), 7.45 (1H, d, J~8.4 Hz), 7.93 (1H, dd, J~8.4 Hz, 1.8 Hz), 8.07 (2H, d, J~8.7 Hz), 8.15 (1H, d, J~1.8 Hz).

reactant | tert-Butyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)OC(C)(C)C)C=C1)C | C26H32O4
reactant | tert-butyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H14O3
product | Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)OCC)C=C1)C | C24H28O4
